US07226951B2
Methyl-4-iodo-cinnamate (Reagent 4)
A stirred, cooled (ice bath) solution of 4-iodo-cinnamic Acid in methanol was treated with a solution of diazomethane in diethyl ether. The reaction mixture was allowed to warm to ambient temperature, the volatiles were-evaporated in vacuo to afford the title compound.

reactant | 4-iodo-cinnamic Acid | IC1=CC=C(C=CC(=O)O)C=C1 | C9H7IO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl-4-iodo-cinnamate | COC(C=CC1=CC=C(C=C1)I)=O | C10H9IO2
